US05670452
Preparation of N1,N1 -dimethyl-N2 -{[4-(2-fluoroethoxy)-2-methyl-2H-indazol-3-yl]sulfonyl}formamidine (compound represented by the formula [II-j])
4.2 g (15 mmol) of N1,N1 -dimethyl-N2 -[(4-hydroxy-2-methyl-2H-indazol-3-yl)sulfonyl]formamidine was added to a suspension containing 0.6 g (15 mmol) of 60% sodium hydride in 50 ml of DMF, and the mixture was stirred at room temperature for one hour. Further, 2 g (16 mmol) of 1-bromo-2-fluoroethane was added thereto, and the mixture was stirred at room temperature for 12 hours. The mixture was poured into ice water, and the formed crystals were collected by filtration and washed with water and IPE to obtain the desired product. This product was used for the subsequent reaction without purification. Obtained amount: 3.4 g (yield: 69.5%)

reactant | N1,N1 -dimethyl-N2 -[(4-hydroxy-2-methyl-2H-indazol-3-yl)sulfonyl]formamidine | 15 mmol, 4.2 g | CN(C=NS(=O)(=O)C=1N(N=C2C=CC=C(C12)O)C)C | C11H14N4O3S
reactant | sodium hydride | 15 mmol, 0.6 g | [H-].[Na+]
reactant | 1-bromo-2-fluoroethane | 16 mmol, 2 g | BrCCF | C2H4BrF
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N1,N1 -dimethyl-N2 -{[4-(2-fluoroethoxy)-2-methyl-2H-indazol-3-yl]sulfonyl}formamidine | yield: 69.5% | CN(C=NS(=O)(=O)C=1N(N=C2C=CC=C(C12)OCCF)C)C | C13H17FN4O3S
